US07232821B2
3-{2-[5-Trifluoromethyl-2-(benzyloxy)phenyl]cyclopent-1-enyl}-6-fluorobenzoic acid ethyl ester
Prepared by general procedure C(iii) but using 2-(2-benzyloxy-5-trifluoromethylphenyl)cyclopentene-1-boronic acid instead of 2-(2-benzyloxy-5-chlorophenyl)cyclopentene-1-boronic acid and 3-bromo-6-fluorobenzoic acid ethyl ester instead of 2-chloropyrimidine-4-carboxylic acid methyl ester.

reactant | 2-(2-benzyloxy-5-trifluoromethylphenyl)cyclopentene-1-boronic acid | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)C1=C(CCC1)B(O)O | C19H18BF3O3
reactant | 3-bromo-6-fluorobenzoic acid ethyl ester | C(C)OC(C1=CC(=CC=C1F)Br)=O | C9H8BrFO2
product | 3-{2-[5-Trifluoromethyl-2-(benzyloxy)phenyl]cyclopent-1-enyl}-6-fluorobenzoic acid ethyl ester | C(C)OC(C1=CC(=CC=C1F)C1=C(CCC1)C1=C(C=CC(=C1)C(F)(F)F)OCC1=CC=CC=C1)=O | C28H24F4O3
